US08835472B2
2-(4-Bromo-phenyl)-propionitrile
An autoclave is charged with 25.0 g (128 mmol) 4-bromobenzylcyanide, 190 mL dimethylcarbonate and 0.900 g (6.51 mmol) K2CO3 and stirred for 16 h at 180° C. Then the reaction mixture is allowed to cool to r.t., the mixture is diluted with EtOAc and washed with water (1×), aq. 10% Na2S2O3 solution (1×) and brine (1×). The organic layer is dried with MgSO4 and the solvent is removed in vacuo. The residue is purified by destillation (bath temperature 204° C., head temperature 153° C.).

reactant | 4-bromobenzylcyanide | 128 mmol, 25.0 g | BrC1=CC=C(CC#N)C=C1 | C8H6BrN
reactant | dimethylcarbonate | 190 mL | COC(OC)=O | C3H6O3
reactant | K2CO3 | 6.51 mmol, 0.900 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Bromo-phenyl)-propionitrile | BrC1=CC=C(C=C1)C(C#N)C | C9H8BrN
